US04159331
In the manner given in Example 1C, 4,7-dichloroquinoline is heated with 1-[(p-aminophenyl)-sulfonyl]-4-(o-bromophenyl)piperazine to give 1-(o-bromophenyl)-4-[[4-[[7-chloro-4-quinolinyl]-amino]phenyl]sulfonyl]piperazine.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1-[(p-aminophenyl)-sulfonyl]-4-(o-bromophenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)Br | C16H18BrN3O2S
product | 1-(o-bromophenyl)-4-[[4-[[7-chloro-4-quinolinyl]-amino]phenyl]sulfonyl]piperazine | BrC1=C(C=CC=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C25H22BrClN4O2S
